US09388195B2
F) Production of 2-(2-chlorophenyl)-6-(5-methyl-1H-pyrazol-4-yl)thieno[3,2-d]pyrimidin-4 (3H)-one
6-Bromo-2-(2-chlorophenyl)thieno[3.2-d]pyrimidin-4 (3H)-one (157 mg), tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (425 mg), sodium carbonate (138 mg), 1,2-dimethoxyethane (4.0 mL) and water (2.0 mL) were placed in a flask, and the atmosphere in the flask was purged with argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1) (38 mg) was added, and the atmosphere in the flask was purged again with argon. The reaction system was stirred at 100° C. for 1 hr, 8M aqueous sodium hydroxide solution (1 mL) was added, and the mixture was stirred at 100° C. for 30 min. After stirring, the mixture was extracted with ethyl acetate/tetrahydrofuran mixture, and the extract was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained pale-yellow solid was crystallized from methanol/ethyl acetate to give the title compound (43 mg) as a yellow solid.

reactant | 6-Bromo-2-(2-chlorophenyl)thieno[3.2-d]pyrimidin-4 (3H)-one | 157 mg | BrC1=CC=2N=C(NC(C2S1)=O)C1=C(C=CC=C1)Cl | C12H6BrClN2OS
reactant | tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 425 mg | CC1=NN(C=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C15H25BN2O4
reactant | sodium carbonate | 138 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 4.0 mL | COCCOC | C4H10O2
solvent | water | 2.0 mL | O | H2O
product | 2-(2-chlorophenyl)-6-(5-methyl-1H-pyrazol-4-yl)thieno[3,2-d]pyrimidin-4 (3H)-one | 43 mg | ClC1=C(C=CC=C1)C=1NC(C2=C(N1)C=C(S2)C=2C=NNC2C)=O | C16H11ClN4OS
